US05206020
Synthesis of Methyl-2-Hydroxyhexadecanoate
2-hydroxyhexadecanoic acid (10.0 g, 0.0367 moles) and 8.40 g acidic resin were refluxed in 250 mls methanol for 20 hours. The solution was decolorized, filtered and concentrated giving a white solid (yield=85%)

reactant | 2-hydroxyhexadecanoic acid | 0.0367 moles, 10.0 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | methanol | 250 mls | CO | CH4O
product | Methyl-2-Hydroxyhexadecanoate | yield=85% | COC(C(CCCCCCCCCCCCCC)O)=O | C17H34O3
